US07396958B2
Synthesis of 2-(3-methyl[1,2,4]oxadiazol-5-yl)isoindol-1,3-dione
To 4.4 g of (1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)acetyl chloride in 20 ml of pyridine are added 1.48 g of acetamidoxime, and the mixture is refluxed for 1 hour. The reaction medium is concentrated and taken up in ethyl acetate and water. The organic phase is dried over anhydrous sodium sulfate and concentrated. The residue is chromatographed on a column of silica gel, eluting with a 7/3 (v/v) toluene/ethyl acetate mixture to give 1.2 g of expected product.

reactant | (1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)acetyl chloride | 4.4 g | O=C1N(C(C2=CC=CC=C12)=O)CC(=O)Cl | C10H6ClNO3
reactant | acetamidoxime | 1.48 g | C(C)(N)=NO | C2H6N2O
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 2-(3-methyl[1,2,4]oxadiazol-5-yl)isoindol-1,3-dione | 1.2 g | CC1=NOC(=N1)N1C(C2=CC=CC=C2C1=O)=O | C11H7N3O3
